US04600430
The reaction of a haloformate, such as phenyl chloroformate, and a pyridinylamine generally is carried out by combining a slight excess of haloformate with the pyridine in an organic solvent, such as triethylamine or pyridine, and stirring the mixture for about 1 to about 24 hours at a temperature of about 0° to about 30° C. The product of the reaction, a pyridinyl carbamate, is generally isolated by acidifying the reaction mixture, for instance by the addition of a mineral acid, such as hydrochloric acid or sulfuric acid, and collecting by filtration the precipitate which forms. The carbamate normally needs no further purification, but if desired it can be crystallized from common solvents, such as benzene, acetone, ethyl acetate, and the like.

reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyridinylamine | N1=C(C=CC=C1)N | C5H6N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | pyridinyl carbamate | C(N)(OC1=NC=CC=C1)=O | C6H6N2O2
